US05463088
Finally, 170 ml/h of hydrogen fluoride (measured as liquid) and 148 g/h of 2-chloro-2,3,3-trifluorobenzodioxane were passed over the catalyst at 300° C. In the course of 7 hours, 930 g of 2,2,3,3-tetrafluorobenzodioxane were obtained. This corresponds to a degree of fluorination of 97%.

reactant | hydrogen fluoride | F | FH
reactant | 2-chloro-2,3,3-trifluorobenzodioxane | ClC1(C(OC2=C(O1)C=CC=C2)(F)F)F | C8H4ClF3O2
product | 2,2,3,3-tetrafluorobenzodioxane | 930 g | FC1(C(OC2=C(O1)C=CC=C2)(F)F)F | C8H4F4O2
